US04777172
Substituting 4-methoxymethyl-5-methyl-6-morpholinopyrimidine, (5.77 g), for 4-methoxymethyl-5-methyl-6-piperidinopyrimidine and using corresponding molar proportions of the other reagents in the method of Example 10(iv), gave 4-hydroxymethyl-5-methyl-6-morpholinopyrimidine, 3.46 g, m.p. 66°-68°, from petroleum ether (40/60).

reactant | 4-methoxymethyl-5-methyl-6-morpholinopyrimidine | 5.77 g | COCC1=NC=NC(=C1C)N1CCOCC1 | C11H17N3O2
reactant | 4-methoxymethyl-5-methyl-6-piperidinopyrimidine | COCC1=NC=NC(=C1C)N1CCCCC1 | C12H19N3O
product | 4-hydroxymethyl-5-methyl-6-morpholinopyrimidine | OCC1=NC=NC(=C1C)N1CCOCC1 | C10H15N3O2
